US08278442B2
3-Fluoro-4-[1-(indan-2-ylaminomethyl)isoquinolin-4-yloxy]benzamide
Using the procedure outlined in Example 100, 3-fluoro-4-(1-formylisoquinolin-4-yloxy)benzamide (Preparation 42) and indan-2-ylamine hydrochloride were converted to the title compound: RT=2.87 min; m/z (ES+)=428.1 [M+H]+.

reactant | 3-fluoro-4-(1-formylisoquinolin-4-yloxy)benzamide | FC=1C=C(C(=O)N)C=CC1OC1=CN=C(C2=CC=CC=C12)C=O | C17H11FN2O3
reactant | indan-2-ylamine hydrochloride | Cl.C1C(CC2=CC=CC=C12)N
product | 3-Fluoro-4-[1-(indan-2-ylaminomethyl)isoquinolin-4-yloxy]benzamide | FC=1C=C(C(=O)N)C=CC1OC1=CN=C(C2=CC=CC=C12)CNC1CC2=CC=CC=C2C1 | C26H22FN3O2
